US09233920B2
To a solution of 4-[(R)-4-(3,5-Dichloro-phenyl)-4-trifluoromethyl-4,5-dihydro-3H-pyrrol-2-yl]-2-methyl-benzoic acid tert-butyl ester (0.68 g) in dichloromethane (0.7 ml) was added trifluoromethyl acetic acid (“TFA”) (0.07 ml). The reaction mixture was stirred at ambient temperature for 4.5 hours. The dichloromethane was evaporated under reduced pressure and the residue was taken up in ethyl acetate and water. The organic phase was washed with water and brine and evaporated under reduced pressure to afford 4-[(R)-4-(3,5-Dichloro-phenyl)-4-trifluoromethyl-4,5-dihydro-3H-pyrrol-2-yl]-2-methyl-benzoic acid which was used as such in the next reaction). LCMS (Method F) RT=2.07 min, [M−H]−=414/416.

reactant | 4-[(R)-4-(3,5-Dichloro-phenyl)-4-trifluoromethyl-4,5-dihydro-3H-pyrrol-2-yl]-2-methyl-benzoic acid tert-butyl ester | 0.68 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C1=NC[C@](C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C23H22Cl2F3NO2
reactant | trifluoromethyl acetic acid | 0.07 ml | FC(F)(F)CC(=O)O | C3H3F3O2
solvent | dichloromethane | 0.7 ml | ClCCl | CH2Cl2
product | 4-[(R)-4-(3,5-Dichloro-phenyl)-4-trifluoromethyl-4,5-dihydro-3H-pyrrol-2-yl]-2-methyl-benzoic acid | ClC=1C=C(C=C(C1)Cl)[C@@]1(CC(=NC1)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C19H14Cl2F3NO2
